US03952104
A suspension of 12.05 parts of 8-allyl-5-(3-methyl-n-butoxy)-4-oxo-4H-1-benzopyran-2-carboxylic acid, ethyl ester in 225 parts of ethanol was treated with 0.2 parts of 5% palladium/charcoal catalyst and hydrogenated at a pressure of 4 atmospheres. After 30 minutes the hydrogen uptake ceased and the reaction mixture was filtered. The volume of the filtrate was reduced and then water was added. On standing 10.2 parts of 5-(3-methyl-n-butoxy)-8-n-propyl-4-oxo-4H-1-benzopyran-2-carboxylic acid, ethyl ester crystallised as yellow needles, melting point 64.5°-65° C. This material was stirred with a hot aqueous solution of sodium bicarbonate containing some ethanol for two hours. The resulting solution was cooled, washed with diethyl ether and acidified with dilute hydrochloric acid. The yellow precipitate was collected and crystallised from aqueous ethanol to give 7.2 parts of 5-(3-methyl-n-butoxy)-8-n-propyl-4-oxo-4H-1-benzopyran-2-carboxylic acid as yellow needles, melting point 166°-167° C.

reactant | 8-allyl-5-(3-methyl-n-butoxy)-4-oxo-4H-1-benzopyran-2-carboxylic acid, ethyl ester | C(C=C)C1=CC=C(C=2C(C=C(OC21)C(=O)OCC)=O)OCCC(C)C | C20H24O5
reactant | hydrogen | [H][H] | H2
catalyst | palladium/charcoal | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 5-(3-methyl-n-butoxy)-8-n-propyl-4-oxo-4H-1-benzopyran-2-carboxylic acid | CC(CCOC1=CC=C(C2=C1C(C=C(O2)C(=O)O)=O)CCC)C | C18H22O5
